US07164024B2
1-[1-[2-[1-(Pyrazinylcarbonyl)piperidin-4-yl]ethyl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one
To 73 mg of 1-[1-[2-(piperidin-4-yl)ethyl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride which was synthesized in Production Example 1, 28 mg of pyrazinecarboxylic acid, 101 μl of triethylamine and 14 mg of 1-hydroxybenzotriazole were added, and the mixture was suspended in 5 ml of chloroform. Then 52 mg of 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride was added to the suspension, and the resulting reaction mixture was stirred for 3 hours at room temperature. To the reaction liquid, ethyl acetate and saturated aqueous sodium hydrogencarbonate solution were added and mixed by shaking, to recover the separated organic layer. The organic layer was successively washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified on silica gel chromatography (chloroform/methanol=10/1) to provide 40 mg of the title compound as a colorless oil.

reactant | 1-[1-[2-(piperidin-4-yl)ethyl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride | 73 mg | Cl.Cl.N1CCC(CC1)CCN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O
reactant | pyrazinecarboxylic acid | 28 mg | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | 1-hydroxybenzotriazole | 14 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 52 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 101 μl | C(C)N(CC)CC | C6H15N
product | 1-[1-[2-[1-(Pyrazinylcarbonyl)piperidin-4-yl]ethyl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 40 mg | N1=C(C=NC=C1)C(=O)N1CCC(CC1)CCN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C24H30N6O2
